US07601716B2
1-(2-Chloro-5-trifluoromethylbenzyl)-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one
7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one (924 mg) was reacted with 2-chloro-5-(trifluoromethyl)benzyl bromide as in General Procedure 1 to give the title compound as a white solid (39% yield). M.p. 252-253° C., LCMS: m/z=468.02 (M+H+), 1H-NMR (DMSO-d6, 400 MHz) δ 4.16 (d, J=1.2 Hz, 2H), 5.16 (s, 2H), 7.20 (s, 1H), 7.26 (d, J=1.3 Hz, 1H), 7.42 (s, 1H), 7.71 (dd, J=8.3 Hz, 1.5 Hz, 1H), 7.77 (d, J=8.6 Hz, 1H), 7.83 (d, J=1.5 Hz, 1H).

reactant | 7-Iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 924 mg | IC1=CC2=C(NCC(N2)=O)N=C1 | C7H6IN3O
reactant | 2-chloro-5-(trifluoromethyl)benzyl bromide | ClC1=C(CBr)C=C(C=C1)C(F)(F)F | C8H5BrClF3
product | 1-(2-Chloro-5-trifluoromethylbenzyl)-7-iodo-3,4-dihydro-1H-pyrido[2,3-b]pyrazin-2-one | 39% yield | ClC1=C(CN2C3=C(NCC2=O)N=CC(=C3)I)C=C(C=C1)C(F)(F)F | C15H10ClF3IN3O
